US06225316B1
a) 2-(4-Methyl-piperazin-1-yl)-isonicotinic acid ethyl ester
A solution of 5.56 g (30 mmol) 2-chloro-isonicotinic acid ethyl ester in 20 ml 1-methylpiperazine was heated for 5 hrs at 90° C. The solvent was evaporated and the residue purified by chromatography to give 3.72 g (50%) of the title compound as a yellow oil.

reactant | 2-chloro-isonicotinic acid ethyl ester | 30 mmol, 5.56 g | C(C)OC(C1=CC(=NC=C1)Cl)=O | C8H8ClNO2
reactant | 1-methylpiperazine | 20 ml | CN1CCNCC1 | C5H12N2
product | 2-(4-Methyl-piperazin-1-yl)-isonicotinic acid ethyl ester | 3.72 g, 50% | C(C)OC(C1=CC(=NC=C1)N1CCN(CC1)C)=O | C13H19N3O2
